US05447718
Mass spectra (MS) were obtained in the electron impact mode at 70 eV using a Finnigan 4510 GC-MS. The MS of the major male-specific compound detected in E. conspersus aeration samples gave a prominent molecular ion a m/z 182 (ca. 20%), but a matching spectrum was not found in the GC-MS computer library of spectra (>31,000 MS) (FIG. 2). The presence of an M-31 peak at m/z 151 suggested a methyl ester structure for this component, as did ions at m/z 59 ([O=C--O--CH3 ]+) and m/z 74 ([CH2 =C(OH)--OCH3 ]+). Thus, the molecular formula was deduced to be C11H18O2 and a di-unsaturated, unbranched acidic moiety was thought most likely. A 20 g sample of the related compound, ethyl (2E,4Z)-decadienoate (called the pear ester), was obtained from International Flavors & Fragrances Inc. (IFF, Union Beach, N.J.). The pear ester standard was saponified and re-esterified with methanol by normal procedures to give methyl (2E,4Z)-decadienoate and a small percentage of the corresponding (2Z,4E)- and (2E,4E)-isomers. This standard of methyl (2E,4Z)-decadienoate gave an identical MS to that of the E. conspersus male-specific compound and the standard coeluted with the unknown by GC.

reactant | ethyl (2E,4Z)-decadienoate | C(\C=C\C=C/CCCCC)(=O)OCC | C12H20O2
solvent | methanol | CO | CH4O
product | methyl (2E,4Z)-decadienoate | C(\C=C\C=C/CCCCC)(=O)OC | C11H18O2
